US06605629B1
To a mixture of methyl 3-[2-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propoxy]phenyl]propionate (400 mg) and tetrahydrofuran (10 ml) was added gradually lithium aluminum hydride (40 mg) under ice-cooling, and the resulting mixture was stirred for 1 hour. Sodium sulfate decahydrate (400 mg) was carefully added to the reaction mixture, which was filtered. The residue on the filter paper was washed with ethyl acetate. The filtrate was concentrated, and hexane was added to the residue to give crystals of 4-(4-chlorophenyl)-5-[3-(2-(3-hydroxypropyl)phenoxy)propyl]-2-(2-methyl-1-imidazolyl)oxazole (264 mg, 65%). Recrystallization from ethyl acetate-hexane gave colorless prisms. Melting point 119-120° C.

reactant | methyl 3-[2-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propoxy]phenyl]propionate | 400 mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)CCC(=O)OC)N1C(=NC=C1)C | C26H26ClN3O4
reactant | lithium aluminum hydride | 40 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 400 mg | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-5-[3-(2-(3-hydroxypropyl)phenoxy)propyl]-2-(2-methyl-1-imidazolyl)oxazole | 264 mg, 65% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)CCCO)N1C(=NC=C1)C | C25H26ClN3O3
